US07429665B2
N-Methoxy-N-methyl-4-triisopropylsilanyloxymethyl-benzamide
Following the procedure for the preparation of 4-benzyloxy-N-methoxy-N-methyl-benzamide but substituting 4-Triisopropylsilanyloxymethyl-benzoic acid provided the title compound. MS: (M+H m/z=352.1).

reactant | 4-benzyloxy-N-methoxy-N-methyl-benzamide | C(C1=CC=CC=C1)OC1=CC=C(C(=O)N(C)OC)C=C1 | C16H17NO3
reactant | 4-Triisopropylsilanyloxymethyl-benzoic acid | C(C)(C)[Si](OCC1=CC=C(C(=O)O)C=C1)(C(C)C)C(C)C | C17H28O3Si
product | N-Methoxy-N-methyl-4-triisopropylsilanyloxymethyl-benzamide | CON(C(C1=CC=C(C=C1)CO[Si](C(C)C)(C(C)C)C(C)C)=O)C | C19H33NO3Si
